US09388185B2
Step 5. 2-[2-(2,6-difluoro-3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine
To a stirred solution of 2-[(2,6-difluoro-3,5-dimethoxyphenyl)ethynyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine (490 mg, 1.08 mmol) in tetrahydrofuran (8 mL)/methanol (10 mL), Pd/C (10% w/w, 365 mg, 0.343 mmol) was added. The resulting mixture was stirred under H2 at ambient temperature. After 24 hr, the catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified on silica gel (eluting with 0 to 60% EtOAc in hexanes) to give the desired product (400 mg, 81%). LCMS calculated for C22H19F2N3O4S (M+H)+: m/z=460.1. Found: 460.1.

reactant | 2-[(2,6-difluoro-3,5-dimethoxyphenyl)ethynyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 1.08 mmol, 490 mg | FC1=C(C(=C(C=C1OC)OC)F)C#CC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C22H15F2N3O4S
reactant | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 0.343 mmol, 365 mg | [Pd] | Pd
product | 2-[2-(2,6-difluoro-3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 400 mg, 81% | FC1=C(C(=C(C=C1OC)OC)F)CCC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C22H19F2N3O4S
